US05322847
1. 3-(6-chloro-1,3-benzthiazin-2-yl-transethenyl)benzyl alcohol t-butyldimethylsilyl ether
A mixture of 1.08 g of 2-methyl-6-chloro-1,3-benzthiazine 1.51 g of 3-formylbenzyl alcohol t-butyldimethylsilyl ether and 5 drops of piperidine in 60 ml of benzene was heated to reflux in a Dean-Stark trap for 1 hour. An additional 5 drops of piperidine were added and the refluxing continued from 30 hours. The mixture was diluted with 400 ml of ethyl acetate and washed with water (1×40 ml) and brine (1×40 ml). The organic layer was dried over magnesium sulfate and concentrated to 2 g of crude product which was chromatographed on silica gel using 5% ethyl acetate in hexane (v:v), 188 mg, m.p. 58°-60° C.

reactant | 2-methyl-6-chloro-1,3-benzthiazine | 1.08 g | CC1SC2=C(C=N1)C=C(C=C2)Cl | C9H8ClNS
reactant | 3-formylbenzyl alcohol t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CC=C1)C=O | C14H22O2Si
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 3-(6-chloro-1,3-benzthiazin-2-yl-transethenyl)benzyl alcohol t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CC=C1)\C=C\C1SC2=C(C=N1)C=C(C=C2)Cl | C23H28ClNOSSi
